US05387585
1. 3.62 g of 6-fluoro-2H-1,3-benzoxazine-2,4(1H)-dione are suspended in 15 ml of formamide. Gaseous ammonia is introduced while stirring during about 10 min. until the suspension is saturated and the mixture is stirred at room temperature for a further 1 h. Subsequently, the mixture is stirred at 125° C. (bath temperature) for 16 h. The solvent is then distilled off in a high vacuum. The residue is triturated in 50 ml of water and then cooled slightly. The resulting crystals are filtered off, washed with ice-cold water and dried over calcium chloride in a vacuum. 2.9 g of crude 6-fluoro-3H-quinazoline-4-one are obtained. The substance melts at 252°-255° C. after recrystallization from ethyl acetate.

reactant | 6-fluoro-2H-1,3-benzoxazine-2,4(1H)-dione | 3.62 g | FC=1C=CC2=C(C(NC(O2)=O)=O)C1 | C8H4FNO3
reactant | ammonia | N | H3N
solvent | formamide | 15 ml | C(=O)N | CH3NO
product | 6-fluoro-3H-quinazoline-4-one | 2.9 g | FC=1C=C2C(NC=NC2=CC1)=O | C8H5FN2O
